US08865726B2
EDCI (2.39 g, 12.45 mmol) was added to a mixture of (S)-4-(5-(4-isopropyl-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)benzoic acid (0.76 g, 2.1 mmol) and HOBT-H2O (0.95 g, 6.226 mmol) in DMF (10 mL) at ambient temperature, and the reaction mixture was stirred for 20 minutes at ambient temperature. A solution of hydrazine hydrate (0.31 mL, 6.2 mmol) in DMF and triethylamine (1.5 mL, 10.38 mmol) were added. The resulting mixture was stirred for 1 hour at ambient temperature. The reaction mixture was diluted with EtOAc, washed with aqueous NH4Cl, NaHCO3, and brine, dried over MgSO4, and concentrated under reduced pressure. The crude was purified by silica gel flash column chromatography (0-5% MeOH in dichloromethane) to afford 0.50 g (64%) of (S)-4-(5-(4-isopropyl-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)benzohydrazide. LCMS (APCI+) m/z 381.4 [M+H]+.

reactant | EDCI | 12.45 mmol, 2.39 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | (S)-4-(5-(4-isopropyl-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)benzoic acid | 2.1 mmol, 0.76 g | C(C)(C)[C@@H]1N(C(OC1)=O)C1=NC=2N(C=C1)N=CC2C2=CC=C(C(=O)O)C=C2 | C19H18N4O4
reactant | HOBT H2O | 6.226 mmol, 0.95 g | C=1C=CC2=C(C1)N=NN2O.O
reactant | hydrazine hydrate | 6.2 mmol, 0.31 mL | O.NN
reactant | triethylamine | 10.38 mmol, 1.5 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-4-(5-(4-isopropyl-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)benzohydrazide | 0.50 g, 64% | C(C)(C)[C@@H]1N(C(OC1)=O)C1=NC=2N(C=C1)N=CC2C2=CC=C(C(=O)NN)C=C2 | C19H20N6O3
